US05552398
3-(2-Hydroxyethyl)quinolizidine (D1)
A solution of 3-(2-hydroxyethyl)quinolizidin-4-one (1.4 g, 0.0071 mole) in THF (40 ml) was added to a stirred suspension of lithium aluminium hydride (0.5 g, 0.013 mole) in THF (50 ml) under nitrogen and the mixture heated under reflux for 2.5 hours, then cooled to ice bath temperature and treated dropwise with water (0.5 ml), 10% sodium hydroxide solution (0.5 ml) and water (1.5 ml). The mixture was filtered through kieselguhr and the filtrate concentrated in vacuo. The residue was distilled in a Kugelr ohr apparatus (bp approx. 140° C. at 2 mmHg) to give the title compound as a colourless oil (0.97 g, 75%).

reactant | 3-(2-hydroxyethyl)quinolizidin-4-one | 0.0071 mole, 1.4 g | OCCC1CCC2CCCCN2C1=O | C11H19NO2
reactant | lithium aluminium hydride | 0.013 mole, 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(2-Hydroxyethyl)quinolizidine | 0.97 g, 75% | OCCC1CCC2CCCCN2C1 | C11H21NO
